US03950236
1.80 g of 6-methylveratraldehyde was treated with 2 g KOH, 1.4 ml 95% hydrazine, and 20 ml diethylene glycol in the manner described in the preparation of 3,4-dimethoxytoluene to give a quantitative yield of 4,5-dimethylveratrole as a cream colored solid. An analytical sample was sublimed (60°/0.05 mm Hg) to give a white powder, mp 41°-42°(Lit. 42.5°). Nmr (δ): 2.19 (s, 6H), 3.85 (s, 6H), 6.66 (s, 2H).

reactant | 6-methylveratraldehyde | 1.80 g | CC1=CC(=C(C=C1C=O)OC)OC | C10H12O3
reactant | KOH | 2 g | [OH-].[K+]
reactant | hydrazine | 1.4 ml | NN | H4N2
reactant | 3,4-dimethoxytoluene | COC=1C=C(C=CC1OC)C | C9H12O2
solvent | diethylene glycol | 20 ml | C(COCCO)O | C4H10O3
product | 4,5-dimethylveratrole | quantitative yield | CC=1C=C(C(=CC1C)OC)OC | C10H14O2
